US05120758
2-Hydroxymethyl-7-phenoxy-1,4-benzodioxane (1.42 g, 5.50 mmol) and triethylamine (1.11 g, 11.0 mmol) are dissolved in methylene chloride (50 mL) and treated with methanesulfonyl chloride (0.94 g, 8.26 mmol) at 0° C. The mixture is stirred at 0° C. for 30 minutes, and diluted with ether. This is washed with aqueous sodium bicarbonate, aqueous 1N hydrochloric acid and saturated aqueous ammonium chloride, dried over magnesium sulfate and evaporated to give 2-methanesulfonyloxymethyl-7-phenoxy-1,4-benzodioxane. The crude oil is used without further purification.

reactant | 2-Hydroxymethyl-7-phenoxy-1,4-benzodioxane | 5.50 mmol, 1.42 g | OCC1COC2=C(O1)C=C(C=C2)OC2=CC=CC=C2 | C15H14O4
reactant | triethylamine | 11.0 mmol, 1.11 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8.26 mmol, 0.94 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 2-methanesulfonyloxymethyl-7-phenoxy-1,4-benzodioxane | CS(=O)(=O)OCC1COC2=C(O1)C=C(C=C2)OC2=CC=CC=C2 | C16H16O6S
